US07504403B2
9-{2-[2-(3-Hydroxymethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl}-2-phenyl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one:
A mixture of 9-(2-methanesulfonyl-pyrimidin -4-yl)-2-phenyl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one (344 mg, 0.90 mmol), [3-(2-amino-propyl)-phenyl]-methanol (371 mg, 2.25 mmol), and N-methylmorpholine (8 mL) was heated to 100° C. for 20 h. Reaction was diluted with dichloromethane (15 mL) and ethyl acetate (40 mL), washed three times with water (50 mL) then saturated sodium chloride (10 mL). Organic dried over magnesium sulfate then concentrated to a oil under vacuum. Product purified on silica and isolated as a white solid. M+1=469.

reactant | 9-(2-methanesulfonyl-pyrimidin -4-yl)-2-phenyl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.90 mmol, 344 mg | CS(=O)(=O)C1=NC=CC(=N1)N1CCCN2C1=NC(=CC2=O)C2=CC=CC=C2 | C18H17N5O3S
reactant | [3-(2-amino-propyl)-phenyl]-methanol | 2.25 mmol, 371 mg | NC(CC=1C=C(C=CC1)CO)C | C10H15NO
reactant | N-methylmorpholine | 8 mL | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 9-{2-[2-(3-Hydroxymethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl}-2-phenyl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | OCC=1C=C(C=CC1)CC(C)NC1=NC=CC(=N1)N1CCCN2C1=NC(=CC2=O)C2=CC=CC=C2 | C27H28N6O2
